US07442702B2
(3-{[(4-Pyrazol-1-yl-benzyl)-(pyridine-2-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester.
The title compound of Step A was prepared from {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, of Step A of Example 13a, and pyridine-2-sulfonyl chloride hydrochloride, of Preparation 47, following the method described in Example 3, Step B with a reaction time of 2 h. 1H NMR (400 MHz, CDCl3) δ8.66 (m, 1H), 7.95 (d, 1H), 7.85 (m, 2H), 7.68 (d, 1H), 7.49 (d, 2H), 7.45 (m, 1H), 7.16 (d, 2H), 7.08 (t, IH), 6.70 (m, 3H), 6.43 (m, 1H), 4.49 (s, 2H), 4.44 (s, 2H), 4.38 (s, 2H), 1.46 (s, 9H); MS 535 (M+1).

reactant | {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C23H27N3O3
reactant | pyridine-2-sulfonyl chloride hydrochloride | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
product | (3-{[(4-Pyrazol-1-yl-benzyl)-(pyridine-2-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C1=NC=CC=C1)CC1=CC=C(C=C1)N1N=CC=C1)=O | C28H30N4O5S
